US05216015
Step 4: Preparation of 3α, 12α-diacetoxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-5β-androstane
A mixture of 3α, 12α-dihydroxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-5β-androstane (15.6 g), pyridine (14.8 ml), acetic anhydride (57.4 ml), 4-dimethylaminopyridine (3.71 g) and toluene (60 ml) is stirred at room temperature for about 30 minutes, diluted with ether and water and the layers are separated. The organic solution is washed water, dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product is crystallized from 25% ether in hexane to give the desired product as an off-white solid.

reactant | 3α, 12α-dihydroxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-5β-androstane | 15.6 g | O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)[C@H](C[C@@H]3[C@]2(CC1)C)O)C(CC=C(C1=CC=CC=C1)C1=CC=CC=C1)C | C36H48O2
reactant | pyridine | 14.8 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 57.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
reactant | ether | CCOCC | C4H10O
catalyst | 4-dimethylaminopyridine | 3.71 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | 3α, 12α-diacetoxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-5β-androstane | C(C)(=O)O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)[C@H](C[C@@H]3[C@]2(CC1)C)OC(C)=O)C(CC=C(C1=CC=CC=C1)C1=CC=CC=C1)C | C40H52O4
